US06310107B1
Dimethyl (4-Methoxy-2-nitrophenyl)methylidenemalonate
A mixture of 4-methoxy-2-nitrobenzaldehyde (21.3 g, Org. Synth., Vol. V, p-139, 1973), dimethyl malonate (16.5 g), piperidine (2.5 ml), and acetic acid (0.25 ml) in methanol (125 ml) was heated under reflux for 24 hr. The reaction mixture was concentrated, diluted with 1 N aqueous hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with 10% aqueous potassium carbonate and saturated aqueous sodium chloride, dried, and concentrated. The residue was purified by silica gel column chromatography (eluent: ethyl acetate:hexane=1:2) to obtain the titled compound (25 g).

reactant | 4-methoxy-2-nitrobenzaldehyde | 21.3 g | COC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | dimethyl malonate | 16.5 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | piperidine | 2.5 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.25 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 125 ml | CO | CH4O
product | Dimethyl (4-Methoxy-2-nitrophenyl)methylidenemalonate | 25 g | COC1=CC(=C(C=C1)C=C(C(=O)OC)C(=O)OC)[N+](=O)[O-] | C13H13NO7
